US08431575B2
To a stirred solution of (±)-cis-4-benzyloxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.365 mmol, 0.128 g)) in methanol (3 mL) was added 10% palladium on carbon (0.07 g, wet). The resultant reaction mixture was subjected to hydrogenation using a balloon full of hydrogen for 2 h. The catalyst was filtered through a pad of celite. The pad was washed with methanol (10 mL), and the combined filtrate was concentrated under reduced pressure to get (±)-cis-4-amino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester.

reactant | (±)-cis-4-benzyloxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.365 mmol, 0.128 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)O | C18H26N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium on carbon | 0.07 g | [Pd] | Pd
product | (±)-cis-4-amino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)N)O | C10H20N2O3
